US07601844B2
Methyl 3-bromo-5-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamoyl)benzoate (40 mg, 0.069 mmol) was dissolved in toluene (3 mL) at 25° C. then 2-(tributylstannyl)pyridine (76 mg, 0.207 mmol) was added. The reaction was degassed then placed under nitrogen. Tetrakis(triphenylphosphine)palladium(0) (4 mg, 3.45 μmol) was added and the reaction heated at reflux for 2 hours. The reaction was concentrated in vacuo to give a dark residue which was then dissolved in MeOH, filtered to remove insoluble material, then purified by LCMS HPLC. The obtained colorless oil was dissolved in EtOAc, dried over sodium sulfate and concentrated in vacuo to give methyl 3-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamoyl)-5-(pyridin-2-yl)benzoate (30 mg, 0.052 mmol, 75% yield) as a white glass. MS found: (M+H)+=578.34.

reactant | Methyl 3-bromo-5-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamoyl)benzoate | 0.069 mmol, 40 mg | BrC=1C=C(C(=O)OC)C=C(C1)C(N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C)=O | C27H32BrClN2O5
reactant | 2-(tributylstannyl)pyridine | 0.207 mmol, 76 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 3.45 μmol, 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamoyl)-5-(pyridin-2-yl)benzoate | 0.052 mmol, 30 mg, 75% yield | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC(=O)C=1C=C(C(=O)OC)C=C(C1)C1=NC=CC=C1)=O)(C)C)O | C32H36ClN3O5
